US06239147B1
A mixture of racemic 6-acetoxy-1-methyl-1-trifluoromethylisochroman (38.4 g, 0.140 mol), 10% sec-butanol solution in hexane (1.3 L), and lipase PS (35 g) was stirred vigorously at room temperature for 23 hr. After filtration, the filtrate was concentrated under reduced pressure to give a mixture. This was purified by silica-gel column chromatography eluted with gradient of hexane and ethyl acetate (15:1,5:1,2:1) to give, first, (1R)6-acetoxy-1-methyl-1-trifluoromethyl-isochroman as a colorless oil (17.3 g, 45%, 94%ee). The 1H-NMR spectra of this compound was identical with that of racemate. The second fraction gave (1S)-4-hydroxy-1-methyl-1-trifluoromethyl-isochroman as crystals (16.9 g, 52%, 83%ee). The 1H-NMR spectra of this material was identical with that of racemate.

reactant | racemic 6-acetoxy-1-methyl-1-trifluoromethylisochroman | 0.140 mol, 38.4 g | C(C)(=O)OC=1C=C2CCOC(C2=CC1)(C(F)(F)F)C | C13H13F3O3
reactant | sec-butanol | C(C)(CC)O | C4H10O
reactant | (1R)6-acetoxy-1-methyl-1-trifluoromethyl-isochroman | C(C)(=O)OC=1C=C2CCO[C@](C2=CC1)(C(F)(F)F)C | C13H13F3O3
solvent | hexane | 1.3 L | CCCCCC | C6H14
product | (1S)-4-hydroxy-1-methyl-1-trifluoromethyl-isochroman | OC1CO[C@@](C2=CC=CC=C12)(C(F)(F)F)C | C11H11F3O2
